US06087357
Piridine (23 μl) and acetyl chloride (16 μl) were successively added to a solution of (2R)-4-(4-aminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-piperazine (113 mg) and the whole was stirred at room temperature for 1.5 hours. The mixture was poured into water and the separated oil was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporate in vacuo. The residue was purified by column chromatography on silica gel with a mixture of toluene and ethyl acetate as an eluent to give (2R)-4-(4-acetylaminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine (98.3 mg). The obtained piperazine was dissolved in ethyl acetate. 4N Hydrogen chloride in ethyl acetate solution (43 μl) was added to the solution and the mixture was evaporated in vacuo. The residue was triturated with n-hexane to give (2R)-4-(4-acetylaminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine hydrochloride (92 mg).

reactant | acetyl chloride | 16 μl | C(C)(=O)Cl | C2H3ClO
reactant | (2R)-4-(4-aminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)-piperazine | 113 mg | NC1=CC=C(CN2C[C@H](N(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)CC2=CC(=C(C=C2)Cl)Cl)C=C1 | C27H23Cl2F6N3O
solvent | water | O | H2O
product | (2R)-4-(4-acetylaminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dichlorobenzyl)piperazine | 98.3 mg | C(C)(=O)NC1=CC=C(CN2C[C@H](N(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)CC2=CC(=C(C=C2)Cl)Cl)C=C1 | C29H25Cl2F6N3O2
